US07435815B2
[(5-Isopropyl-pyridine-2-sulfonyl)-m-tolyl-amino]-acetic acid
prepared by reaction of 5-isopropyl-pyridine-2-sulfonic acid m-tolylamide with tert-butyl bromoacetate

reactant | 5-isopropyl-pyridine-2-sulfonic acid m-tolylamide | C1(=CC(=CC=C1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)C | C15H18N2O2S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(5-Isopropyl-pyridine-2-sulfonyl)-m-tolyl-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C=1C=C(C=CC1)C)CC(=O)O | C17H20N2O4S
